US05883092
Synthesis of N-(4-isopropylphenyl)-3-[6-(4-t-butylphenylsulfonylamino )- 5-(2-methoxyphenoxy)-2-morpholino-4-pyrimidinyloxy]propionamide
The procedure described in Example 2 was repeated by use of 3-[6-(4-t-butylphenylsulfonylamino)-5-(2-methoxyphenoxy )-2-morpholino-4-pyrimidinyloxy]propionic acid and 4-isopropylaniline, to thereby obtain the title compound as a colorless oil.

reactant | 3-[6-(4-t-butylphenylsulfonylamino)-5-(2-methoxyphenoxy )-2-morpholino-4-pyrimidinyloxy]propionic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NC(=N1)N1CCOCC1)OCCC(=O)O)OC1=C(C=CC=C1)OC | C28H34N4O8S
reactant | 4-isopropylaniline | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
product | N-(4-isopropylphenyl)-3-[6-(4-t-butylphenylsulfonylamino )- 5-(2-methoxyphenoxy)-2-morpholino-4-pyrimidinyloxy]propionamide | C(C)(C)C1=CC=C(C=C1)NC(CCOC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)N1CCOCC1)=O | C37H45N5O7S
